US08202857B2
(S)-3-((S)-1-(4-(2-methoxypyridin-4-yl)phenyl)ethyl)-7-(2-methylallyl)-7-phenyl-1,3-oxazepan-2-one was prepared from (S)-3-((S)-1-(4-bromophenyl)ethyl)-7-(2-methylallyl)-7-phenyl-1,3-oxazepan-2-one and 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine following conditions analogous to those described in Example 6 using PdCl2(dppf) as catalyst. tR=2.25 min, m/z 457 (M+1). 1H NMR (CD3OD) δ 8.08 (t, 1H), 7.50-7.27 (m, 7H), 7.11 (t, 1H), 6.92 (d, 1H), 6.86 (t, 2H), 5.13 (m, 1H), 4.71 (s, 1H), 4.53 (s, 1H), 3.88 (d, 3H), 2.95 (m, 2H), 2.58 (m, 2H), 2.47 (m, 1H), 2.04 (m, 1H), 1.51-1.40 (m, 6H), 1.26 (m, 2H).

reactant | (S)-3-((S)-1-(4-bromophenyl)ethyl)-7-(2-methylallyl)-7-phenyl-1,3-oxazepan-2-one | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CCC1)(C1=CC=CC=C1)CC(=C)C)=O | C23H26BrNO2
reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | COC1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H18BNO3
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-3-((S)-1-(4-(2-methoxypyridin-4-yl)phenyl)ethyl)-7-(2-methylallyl)-7-phenyl-1,3-oxazepan-2-one | COC1=NC=CC(=C1)C1=CC=C(C=C1)[C@H](C)N1C(O[C@](CCC1)(C1=CC=CC=C1)CC(=C)C)=O | C29H32N2O3
